US08802852B2
a) N-(2,6-diisopropylphenyl)-4-(6-tosyloxy-1-hexinyl)-naphthaline-1,8-dicarboxylic acid imide
To a degassed mixture of 0.50 g (1.15 mmoles) of N-(2,6-diisopropylphenyl)-4-bromo-naphthaline-1,8-dicarboxylic acid imide (synthesized according to WO2007062002) and 0.17 g (0.89 mmoles) of Cu(I) iodide in 20 ml anhydrous dimethylformamide (DMF) and 40 ml anhydrous methylene chloride were added 0.53 g (0.46 mmoles) of tetrakis(triphenylphosphino)-palladium (0), 0.58 g (0.80 ml, 5.5 mmol) triethylamine and a degassed solution of 0.48 g (1.90 mmol) p-toluensulfonic acid-5-hexinyl ester (synthesized according to (Y. Yang and T. M. Swager, Macromolecules 2006, 39, 2013-2015) in 2 ml methylene chloride. The reaction mixture was stirred for 60 minutes at room temperature, subsequently the solvent was evaporated until dryness and purified on silica gel ((60 Å, 60-200 μm), first with methylene chloride and afterwards with n-heptane/acetic acid (3:1) as free-flow agent. 0.6 g (86% of the theoretical yield) of a orange-yellow oil were obtained.

reactant | N-(2,6-diisopropylphenyl)-4-bromo-naphthaline-1,8-dicarboxylic acid imide | 1.15 mmoles, 0.50 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C1=CC=C(C2=CC=CC(=C12)C(=O)O)Br | C24H24BrNO3
reactant | triethylamine | 5.5 mmol, 0.80 ml, 0.58 g | C(C)N(CC)CC | C6H15N
reactant | p-toluensulfonic acid-5-hexinyl ester | 1.90 mmol, 0.48 g | C(CCCC#C)OS(=O)(=O)C1=CC=C(C=C1)C | C13H16O3S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphino)-palladium (0) | 0.46 mmoles, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(2,6-diisopropylphenyl)-4-(6-tosyloxy-1-hexinyl)-naphthaline-1,8-dicarboxylic acid imide | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C(O)C1=CC=C(C2=CC=CC(=C12)C(=O)O)C#CCCCCOS(=O)(=O)C1=CC=C(C)C=C1 | C37H39NO6S
